US07541478B2
Monocalcium bis(4-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}butanoate)
To a solution of 4-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}butanoic acid obtained in Reference Example 9 (26.7 g, 0.0463 mol) in acetone (534 ml) was added 25% aqueous ammonia (4 ml) at 50° C., and the mixture was stirred at the same temperature for 15 minutes. The reaction mixture was concentrated under reduced pressure and the residue was dissolved in a mixture of acetonitrile (534 ml) and water (107 ml). The reaction mixture was heated to 70° C., and a solution of calcium chloride (3.14 g, 0.0255 mol) in water (107 ml) was slowly added dropwise thereto. The reaction mixture was stirred at 70° C. for 3.5 hours, water (214 ml) was added thereto and the mixture was further stirred at 70° C. for 1 hour and at room temperature for 12 hours. Crystals obtained were collected by filtration, washed with water (100 ml) and dried at 50° C. under reduced pressure to obtain the title compound (26.67 g).

reactant | 4-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}butanoic acid | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)CCCC(=O)O)C | C29H22ClF4NO5
reactant | ammonia | 4 ml | N | H3N
reactant | calcium chloride | 0.0255 mol, 3.14 g | [Cl-].[Ca+2].[Cl-]
solvent | acetone | 534 ml | CC(=O)C | C3H6O
solvent | water | 107 ml | O | H2O
solvent | water | 214 ml | O | H2O
product | Monocalcium bis(4-{3-[7-chloro-3-(2-{[4-fluoro-2-(trifluoromethyl)phenyl]amino}-2-oxoethyl)-6-methyl-2-oxo-2H-chromen-4-yl]phenyl}butanoate) | 26.67 g | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)CCCC(=O)[O-])C.ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)F)C(F)(F)F)C=1C=C(C=CC1)CCCC(=O)[O-])C.[Ca+2] | InChI=1S/2C29H22ClF4NO5.Ca/c2*1-15-10-19-24(14-22(15)30)40-28(39)20(27(19)17-6-2-4-16(11-17)5-3-7-26(37)38)13-25(36)35-23-9-8-18(31)12-21(23)29(32,33)34;/h2*2,4,6,8-12,14H,3,5,7,13H2,1H3,(H,35,36)(H,37,38);/q;;+2/p-2
